US07820823B2
(3R)-3-[Benzyloxycarbonyl-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-amino]-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 4 g of (3R)-3-(2-fluoro-4-nitro-phenyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (12.29 mmol) in 100 ml ethyl acetate and 50 ml methanol were added 1 g of Pd/C 10%. The suspension was stirred under hydrogen. The reaction was monitored by TLC. The catalyst was filtered, the filtrate evaporated to dryness, and the residue was dissolved in 100 ml of acetone. 25 ml of a saturated solution of sodium bicarbonate was added, than a 0° C. 3.63 ml of benzyl chloroformate (25.8 mmol). The reaction was stirred over night at rt and monitored by TLC. The acetone was evaporated, the water layer extracted twice with ethyl acetate, the org layer washed with water and brine, dried over Mg sulfate, filtered and the filtrate evaporated to dryness. The residue was purified by chromatography, using a 1/1 ethyl acetate/hexane mixture as eluent.

reactant | (3R)-3-(2-fluoro-4-nitro-phenyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 12.29 mmol, 4 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C15H20FN3O4
reactant | benzyl chloroformate | 25.8 mmol, 3.63 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | (3R)-3-[Benzyloxycarbonyl-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-amino]-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N(C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1 | C31H34FN3O6
